US06057317
Step a: 4-[2-(Benzyloxycarbonyl)-acetyl]-2-ethoxycarbonyl-3,4-dihydro-2H-1,4-benzoxazine
54.6 mmol (7.6 ml) of triethylamine and 35.9 mmol (7.64 g) of benzyl 3-chloro-3-oxopropanoate are added to 17.1 mmol (3.53 g) of 2-ethoxycarbonyl-3,4-dihydro-2H-1,4-benzoxazine (described in J. Heterocyclic Chem., 1985, 22, 177) in 35 ml of dichloromethane. The reaction mixture is stirred at room temperature for 1 hour. After hydrolysis and extraction with dichloromethane, the organic phase is concentrated and purified by chromatography on silica gel using an ethyl acetate/petroleum ether mixture (2/8) as eluant to yield the expected compound.

reactant | triethylamine | 54.6 mmol, 7.6 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl 3-chloro-3-oxopropanoate | 35.9 mmol, 7.64 g | ClC(CC(=O)OCC1=CC=CC=C1)=O | C10H9ClO3
reactant | 2-ethoxycarbonyl-3,4-dihydro-2H-1,4-benzoxazine | 17.1 mmol, 3.53 g | C(C)OC(=O)C1OC2=C(NC1)C=CC=C2 | C11H13NO3
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | 4-[2-(Benzyloxycarbonyl)-acetyl]-2-ethoxycarbonyl-3,4-dihydro-2H-1,4-benzoxazine | C(C1=CC=CC=C1)OC(=O)CC(=O)N1CC(OC2=C1C=CC=C2)C(=O)OCC | C21H21NO6
